US06313311B1
a) 4-[1-(6-Methoxyindan-1-yl)-propyl]-1H-imidazole
The procedure of Example 12 is repeated except that 1-(3-benzyl-3H-imidazol-4-yl)-propan-1-one is used in place of 3-benzyl-3H-imidazole-4-carbaldehyde and 6-methoxyindan-1-one is used in place of 1-indanone. The product is a mixture of two diastereomers (1:1).

reactant | 1-(3-benzyl-3H-imidazol-4-yl)-propan-1-one | C(C1=CC=CC=C1)N1C=NC=C1C(CC)=O | C13H14N2O
reactant | 6-methoxyindan-1-one | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
product | 4-[1-(6-Methoxyindan-1-yl)-propyl]-1H-imidazole | COC1=CC=C2CCC(C2=C1)C(CC)C=1N=CNC1 | C16H20N2O
